US06756378B2
To a stirred solution of benzyl 4-aminocyclohexanecarboxylate (900 mg, 3.9 mmol), boc-proline (830 mg, 3.9 mmol), HOBt (521 mg, 3.9 mmol), and triethylamine (1.6 ml, 11.6 mmol) in CH2Cl2 (30.0 ml) was added EDC.HCl (1.1 g, 5.8 mmol) at 0° C. The reaction mixture was stirred at room temperature for 16 hr, and concentrated in vacuo. Water was added to the residue, and extracted with EtOAc. The extract was washed with sat. NaHCO3, 2-M citric acid, and sat. NaHCO3, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (6:1, v/v) as eluent to give benzylcis-4-[(1-tert-butoxycarbonyl-2-pyrrolidinyl)carbonylamino]cyclohexanecarboxylate (600 mg, 36%) as an amorphous solid. 1H-NMR (CDCl3) δ1.44 (s, 9H), 1.50-1.90 (m, 12H), 2.20-2.26 (m, 1H), 3.25-3.50 (m, 2H), 3.80-3.90 (m, 1H), 4.10-4.25 (m, 1H), 5.12 (s, 2H), 7.35-7.36 (m, 5H).

reactant | benzyl 4-aminocyclohexanecarboxylate | 3.9 mmol, 900 mg | NC1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO2
reactant | boc-proline | 3.9 mmol, 830 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HOBt | 3.9 mmol, 521 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 11.6 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | EDC.HCl | 5.8 mmol, 1.1 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 30.0 ml | C(Cl)Cl | CH2Cl2
product | benzylcis-4-[(1-tert-butoxycarbonyl-2-pyrrolidinyl)carbonylamino]cyclohexanecarboxylate | 600 mg, 36% | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C24H34N2O5
